US08440681B2
To a solution of 2-(2,5-dichloropyrimidin-4-ylamino)benzoic acid (300 mg, 1.1 mmol) in DCM/MeOH (10/5 mL) is added trimethylsilyl diazomethane in ethyl ether solution (2.0 M, 2 mL). The mixture is stirred for 30 min and concentrated to afford methyl 2-(2,5-dichloropyrimidin-4-ylamino)benzoate as yellow solid.

reactant | 2-(2,5-dichloropyrimidin-4-ylamino)benzoic acid | 1.1 mmol, 300 mg | ClC1=NC=C(C(=N1)NC1=C(C(=O)O)C=CC=C1)Cl | C11H7Cl2N3O2
reactant | trimethylsilyl diazomethane | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | DCM MeOH | 5 mL | C(Cl)Cl.CO
solvent | ethyl ether | 2.0 M, 2 mL | C(C)OCC | C4H10O
product | methyl 2-(2,5-dichloropyrimidin-4-ylamino)benzoate | ClC1=NC=C(C(=N1)NC1=C(C(=O)OC)C=CC=C1)Cl | C12H9Cl2N3O2
